US07067529B2
To a solution of 1-(3-carboxymethoxybenzoyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester (89 mg, 0.19 mmol) in 5 ml of methanol was added lithium hydroxide solution (0.5 N, 1.0 ml). The mixture was stirred at room temperature overnight. The reaction mixture was loaded to a preparative HPLC for purification to give 1-(3-Carboxymethoxy-benzoyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid as a fluffy solid (72.6 mg, 92%). ES-MS calcd for C21H17NO8 (m/e) 411.4, obsd 412.3 (M+H).

reactant | 1-(3-carboxymethoxybenzoyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid ethyl ester | 0.19 mmol, 89 mg | C(C)OC(=O)C1=CN=C(C2=CC(=C(C=C12)OC)OC)C(C1=CC(=CC=C1)OCC(=O)O)=O | C23H21NO8
reactant | lithium hydroxide | 0.5 N, 1.0 ml | [OH-].[Li+]
solvent | methanol | 5 ml | CO | CH4O
product | 1-(3-Carboxymethoxy-benzoyl)-6,7-dimethoxy-isoquinoline-4-carboxylic acid | 72.6 mg, 92% | C(=O)(O)COC=1C=C(C(=O)C2=NC=C(C3=CC(=C(C=C23)OC)OC)C(=O)O)C=CC1 | C21H17NO8
